US08003677B2
2b: N-(2-Cyclopropylethyl)-2-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl]thiazole-5-carboxamide
2-[5-(2-Trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]thiazole-5-carboxylic acid, lithium salt (88 mg, 0.212 mmol), 2-cyclopropylethylamine hydrochloride (38.7 mg, 0.318 mmol), triethylamine (126 μl, 0.92 mmol) and HATU (128 mg, 0.37 mmol) were stirred at room temperature for 2 h. The solvent was evaporated off and the residue was purified by preparative HPLC (PR18, acetonitrile/water, 0.1% TFA). Yield: 6 mg (6%), M+H+: 477.19.

reactant | 2-[5-(2-Trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo[3,4-c]pyrrol-2-yl]thiazole-5-carboxylic acid | FC(C1=C(C(=O)N2CC3=C(C2)CN(C3)C=3SC(=CN3)C(=O)O)C=CC=C1)(F)F | C18H14F3N3O3S
reactant | lithium | 0.212 mmol, 88 mg | [Li] | Li
reactant | 2-cyclopropylethylamine hydrochloride | 0.318 mmol, 38.7 mg | Cl.C1(CC1)CCN
reactant | triethylamine | 0.92 mmol, 126 μl | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.37 mmol, 128 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | N-(2-Cyclopropylethyl)-2-[5-(2-trifluoromethylbenzoyl)-3,4,5,6-tetrahydro-1H-pyrrolo-[3,4-c]pyrrol-2-yl]thiazole-5-carboxamide | C1(CC1)CCNC(=O)C1=CN=C(S1)N1CC=2CN(CC2C1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H23F3N4O2S
